US06759420B1
2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide acetic acid salt, less polar diastereomer
2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide acid salt, less polar diastereomer, was prepared from (S)-[3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-cyclohexyl-acetic acid (less polar diastereomer, example 1 h), 2-(S)-amino-5-guanidino-pentanoic acid amide dihydrochloride. HATU, and collidine in dimethylformamide as described in example 3 to yield 46% of the desired product. MS m/z: 569.5 (M+H)+, 285.4 (M+2H)2+.

reactant | 2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)N[C@H](C(=O)N)CCCNC(=N)N)C1CCCCC1)C1CCCCC1 | C30H48N8O3
reactant | (S)-[3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-cyclohexyl-acetic acid | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C1CCCCC1 | C24H35N3O3
reactant | 2-(S)-amino-5-guanidino-pentanoic acid amide dihydrochloride | Cl.Cl.N[C@H](C(=O)N)CCCNC(=N)N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(S)-[3-(4-Carbamimidoyl-phenyl-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide acetic acid salt | 46% | C(C)(=O)O.C(N)(=N)C1=CC=C(C=C1)N(C1CC(CCC1)CC(=O)N[C@H](C(=O)N)CCCNC(=N)N)C(C(C)C1CCCCC1)=O | InChI=1S/C30H48N8O3.C2H4O2/c1-19(21-8-3-2-4-9-21)29(41)38(23-14-12-22(13-15-23)27(31)32)24-10-5-7-20(17-24)18-26(39)37-25(28(33)40)11-6-16-36-30(34)35;1-2(3)4/h12-15,19-21,24-25H,2-11,16-18H2,1H3,(H3,31,32)(H2,33,40)(H,37,39)(H4,34,35,36);1H3,(H,3,4)/t19?,20?,24?,25-;/m0./s1
